US08044041B2
A mixture of 1,4-dichloro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (0.304 mg, 0.787 mmol), 2N NaOH (4 mL, 8.00 mmol) and dioxane (6 mL) was stirred at 45° C. for 6 h. The reaction mixture was diluted with water, acidified with conc. HCl to ˜pH 4 and extracted with EtOAc (×3). The combined organic phase was washed with brine, dried (Na2SO4) and concentrated to afforded 4-chloro-1-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (0.112 g) as a white solid, 1H NMR (600 MHz, CDCl3) δ: 7.33 (d, 1H), 7.43 (t, 1H), 8.03 (s, 1H), 8.06 (d, 1H), 8.36 (dd, 1H), 8.42 (d, 1H), 8.56 (s, 1H), 10.28 (s, 1H), 11.9 (s, 1H) ppm, 1H NMR (500 MHz, d6-DMSO) δ: 7.52 (d, 1H), 7.65 (t, 1H), 8.08 (d, 1H), 8.26 (s, 1H), 8.43 (d, 1H), 8.47 (dd, 1H), 8.52 (s, 1H), 11.02 (s, 1H), 13.02 (s, 1H) ppm. m/z 368.13; and 1-chloro-4-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide (0.083 g) as a white solid, 1H NMR (500 MHz, CDCl3) δ: 7.21 (d, 1H), 7.32 (t, 1H), 7.92 (d, 1H), 7.97 (d, 1H), 8.00 (s, 1H), 8.38 (d, 1H), 8.93 (s, 1H), 10.42 (s, 1H), 12.20 (s, 1H) ppm. m/z 368.13.

reactant | 1,4-dichloro-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.787 mmol, 0.304 mg | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)Cl)Cl)(F)F | C16H8Cl2F3N3O
reactant | NaOH | 8.00 mmol, 2N, 4 mL | [OH-].[Na+]
reactant | dioxane | 6 mL | O1CCOCC1 | C4H8O2
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | 4-chloro-1-hydroxy-phthalazine-6-carboxylic acid (3-trifluoromethyl-phenyl)-amide | 0.112 g | FC(C=1C=C(C=CC1)NC(=O)C=1C=C2C(=NN=C(C2=CC1)O)Cl)(F)F | C16H9ClF3N3O2
